US08420629B2
Step 4. [3-(benzyloxy)cyclobutylidene]acetonitrile
To a mixture of 1.0000 M of potassium tert-butoxide in tetrahydrofuran (0.68 mL) and THF (5 mL) was added, at 0° C., diethyl cyanomethylphosphonate (0.11 mL, 0.00068 mol) dropwise. The reaction was warmed to rt and 30 min later cooled to 0° C. again. To the reaction mixture was added a solution of 3-(benzyloxy)cyclobutanone (0.1 g, 0.0006 mol) in THF (5 mL). The reaction was stirred over night, allowing warmed up to rt. The reaction was quenched with saturated aq. NH4Cl solution, extracted with EtOAc. The combined organic layers were washed with water and brine, dried over MgSO4 and concentrated to dryness. The crude product was used directly in next step without further purification.

reactant | potassium tert-butoxide | 1.0000 M | CC(C)([O-])C.[K+]
reactant | diethyl cyanomethylphosphonate | 0.00068 mol, 0.11 mL | C(#N)CP(OCC)(OCC)=O | C6H12NO3P
reactant | 3-(benzyloxy)cyclobutanone | 0.0006 mol, 0.1 g | C(C1=CC=CC=C1)OC1CC(C1)=O | C11H12O2
solvent | tetrahydrofuran | 0.68 mL | O1CCCC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | [3-(benzyloxy)cyclobutylidene]acetonitrile | C(C1=CC=CC=C1)OC1CC(C1)=CC#N | C13H13NO
